US05371096
A solution of 25.7 g (0.0612 mol) of methyl (Z)-(2S,3S,4S)-7-[4-(t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-4-heptenoate in 257 ml of methanol is bubbled with HCl gas for about 2 min to give a strongly acidic solution. The mixture is allowed to stand at 0° C. overnight and evaporated. The residue is dissolved in 100 ml of water and extracted with ethyl acetate (2×). The ethyl acetate extracts are discarded. The aqueous layer is diluted with 150 ml of methylene chloride and neutralized by portionwise addition of potassium carbonate. The layers are separated and the aqueous layer is extracted with methylene chloride (3×). The combined extracts are washed with brine, dried (MgSO4) and evaporated to give 16.6 g of methyl (Z)-(2S,3S,4S)-7-[4-hydroxy-2-(3-pyridyl)-tetrahydrofuran-3-yl]-4-heptenoate as an oil with elemental analysis: C,65.87; H,7.78; N,4.58 (theory: C,66.86; H, 7.59; N,4.58) and optical rotation [α]D 25=+9.44 (methanol) and mass spectrum m/z 306 (M+1) (cald. MW=305.38).

reactant | methyl (Z)-(2S,3S,4S)-7-[4-(t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-4-heptenoate | 0.0612 mol, 25.7 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CC\C=C/CCC(=O)OC | C23H37NO4Si
reactant | HCl | Cl | ClH
solvent | methanol | 257 ml | CO | CH4O
product | methyl (Z)-(2S,3S,4S)-7-[4-hydroxy-2-(3-pyridyl)-tetrahydrofuran-3-yl]-4-heptenoate | 16.6 g | O[C@H]1[C@@H]([C@H](OC1)C=1C=NC=CC1)CC\C=C/CCC(=O)OC | C17H23NO4
